US07067517B2
5-(2-Nitro-phenyl)-pyrimidin-2-ol
A solution of 3-(dimethylamino)-2-(2-nitrophenyl)acrylaldehyde (2.00 g, 9.08 mmol), urea (0.60 g, 9.99 mmol) and concentrated hydrochloric acid (0.50 ml) in ethanol (25 ml) was heated at 60° C. for 18 hours under a nitrogen atmosphere. An additional aliquot of concentrated hydrochloric acid (0.50 ml) was added followed by heating at 70° C. for 24 hours. The solvent was removed by evaporation under reduced pressure. The residue was crystallised from methanol yielding the title compound (0.35 g, 18% yield) as a yellow solid.

reactant | 3-(dimethylamino)-2-(2-nitrophenyl)acrylaldehyde | 9.08 mmol, 2.00 g | CN(C=C(C=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | urea | 9.99 mmol, 0.60 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 0.50 ml | Cl | ClH
reactant | hydrochloric acid | 0.50 ml | Cl | ClH
reactant | methanol | CO | CH4O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-(2-Nitro-phenyl)-pyrimidin-2-ol | 0.35 g, 18% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=NC(=NC1)O | C10H7N3O3
